US05011962
About 4.6 g (0.2% by weight) of tetramethylurea and 183.4 g of a 25% solution of phosphonitrile chloride in methylene chloride are added to a mixture containing 1707 g (10.5 mol) of hexamethyldisiloxane and 595 g (3.5 mol) of tetrachlorosilane with stirring in a 4 liter multineck flask fitted with internal thermometer, stirrer and a reflux condenser. The reaction temperature is kept at 45° C. by cooling. After 21 hours, the volatile components of the reaction mixture are removed by distillation at 200 mbar and 100° C. The crude distillate contains 56% of 3-chloro-3-trimethylsiloxyhexamethyltrisiloxane, 29% of 3,3-dichlorohexamethyltrisiloxane and 16% of 3,3-bis(trimethylsiloxy)hexamethyltrisiloxane. The crude distillate is fractionally distilled, and gives, at 20 mbar and 83° to 87° C., 313 g (27% of theory) of 3-chloro-3-trimethylsiloxyhexamethyltrisiloxane in a purity, determined by gas chromatography, of 97%.

reactant | hexamethyldisiloxane | 10.5 mol, 1707 g | C[Si](O[Si](C)(C)C)(C)C | C6H18OSi2
reactant | tetrachlorosilane | 3.5 mol, 595 g | Cl[Si](Cl)(Cl)Cl | Cl4Si
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | tetramethylurea | 4.6 g | CN(C(N(C)C)=O)C | C5H12N2O
product | 3-chloro-3-trimethylsiloxyhexamethyltrisiloxane | 313 g, 27% | Cl[Si](O[Si](C)(C)C)(O[Si](C)(C)C)O[Si](C)(C)C | C9H27ClO3Si4
